US04851419
(a) 2-(2-Pyridyl)-benzenemethanol
2-Aminobenzylalcohol (10 g) was dissolved in concentrated hydrochloric acid (25 ml) and the solution diluted with water (20 ml). The solution was stirred at 0° and a solution of sodium nitrite (5.9 g) in water (20 ml) added dropwise. The mixture was stirred at 0° for 40 minutes. The solution was added dropwise to pyridine (92 ml) stirred at 80°. After stirring at 80° for 90 minutes the mixture was concentrated in vacuo and the residue heated with 880 ammonia (100 ml). The mixture was concentrated in vacuo and the residue slurried with water and extracted with ethyl acetate. The ethyl acetate was washed with brine, dried and evaporated. Flash chromatography produced the sub-title compound as a red oil (3.8 g). M.S. m/e 185 Base Peak 80.

reactant | 2-Aminobenzylalcohol | 10 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | sodium nitrite | 5.9 g | N(=O)[O-].[Na+]
reactant | pyridine | 92 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-(2-Pyridyl)-benzenemethanol | 3.8 g | N1=C(C=CC=C1)C1=C(C=CC=C1)CO | C12H11NO
